US08034812B2
Production of 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-N-[4-(trifluoromethyl)phenyl]benzamide
Using 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoic acid (30 mg, 0.089 mmol), 4-(trifluoromethyl)aniline (44 mg, 0.27 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (26 mg, 0.14 mmol), 4-(dimethylamino)pyridine (17 mg, 0.14 mmol) and pyridine (1.0 mL) as starting materials and in the same manner as in Example 318, the title compound (18 mg, 42%) was obtained as a white powder.

reactant | 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoic acid | 0.089 mmol, 30 mg | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C(=O)O)C=CC2)C1 | C17H14N4O4
reactant | 4-(trifluoromethyl)aniline | 0.27 mmol, 44 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.14 mmol, 26 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 0.14 mmol, 17 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-N-[4-(trifluoromethyl)phenyl]benzamide | 18 mg, 42% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C(=O)NC3=CC=C(C=C3)C(F)(F)F)C=CC2)C1 | C24H18F3N5O3
